US08557936B2
3-Bromo-2-methoxybiphenyl (2):
A mixture of phenylboronic acid (3.4 g, 28.7 mmol), 2,6-dibromoanisole (22.3 g, 83.8 mmol, 3 equiv.) and palladium tetrakistriphenylphosphine (0.6 g) in ethylene glycol dimethyl ether (50 mL) and a solution of potassium carbonate (10.8 g, 0.078 mol) in water (50 mL) were kept at reflux under nitrogen with good stirring overnight. After cooling, the reaction mixture was partitioned between ethyl acetate (800 mL) and water (400 mL). The organic phase was washed with water (2×400 mL), dried over sodium sulfate and filtered. The solvent was removed in vacuo and the residue was chromatographed on silica (360 g) with heptane (5 L) to afford 6.55 g of pure product (87%).

reactant | phenylboronic acid | 28.7 mmol, 3.4 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 2,6-dibromoanisole | 83.8 mmol, 22.3 g, 3 equiv. | BrC1=C(C(=CC=C1)Br)OC | C7H6Br2O
reactant | potassium carbonate | 0.078 mol, 10.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethylene glycol dimethyl ether | 50 mL | COCCOC | C4H10O2
solvent | water | 50 mL | O | H2O
product | 3-Bromo-2-methoxybiphenyl | 6.55 g, 87% | BrC=1C(=C(C=CC1)C1=CC=CC=C1)OC | C13H11BrO
